US07553854B2
To the solution of N-methyl-4-(2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)picolinamide (104 mg, 0.3 mmol) in 2 ml of NMP was added (S)-tert-butyl 3-aminopiperidine-1-carboxylate (240 mg, 1.2 mmol). The reaction solution was stirred at 105° C. for 5 days. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give (S)-tert-butyl 3-(6-(2-(methylcarbamoyl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate (56 mg, 0.12 mmol) as white powder. ES/MS m/z 484.2 (MH+).

reactant | N-methyl-4-(2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)picolinamide | 0.3 mmol, 104 mg | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)S(=O)C)C=C1)=O | C15H13N3O3S2
reactant | (S)-tert-butyl 3-aminopiperidine-1-carboxylate | 1.2 mmol, 240 mg | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-(6-(2-(methylcarbamoyl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate | 0.12 mmol, 56 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C24H29N5O4S
